US05569776
Prior-art syntheses of 4-fluoroalkoxycinnamonitriles start, for example, from p-chlorobenzonitrile, which is reacted, in a first reaction step, with 2,2,3,3'tetra-fluoropropanol to give 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile (EP 0 472 392). This reaction has already been described by J. P. Idoux (J. Org. Chem. 48, 3772, 1983). In a second reaction step, 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile is reacted in the presence of metal hydrides, such as diisobutylaluminumhydride, to give the corresponding benzaldehyde (JPS Sho 61-72767). 4-(2,2,3,3-tetrafluoropropoxy)-benzaldehyde subsequently reacts with diethyl ethoxycarbonylmethanephosphonate to give ethyl 4-(2,2,3,3-tetrafluoropropoxy)cinnamate, which is hydrolyzed, in a fourth step, to give free cinnamic acid. The fifth reaction step consists in the formation of the cinnamoyl chloride, which, in a sixth reaction step, reacts with aqueous ammonia to give 4-(2,2,3,3-tetrafluoropropoxy) cinnamamide. In the seventh and last step of the reaction sequence, the abovementioned cinnamamide is reacted in the presence of thionyl chloride or phosphorus pentachloride to give the desired product.

reactant | 4-(2,2,3,3-tetrafluoropropoxy)-benzaldehyde | FC(COC1=CC=C(C=O)C=C1)(C(F)F)F | C10H8F4O2
reactant | diethyl ethoxycarbonylmethanephosphonate | C(C)OC(=O)CP(OCC)(=O)OCC | C8H17O5P
product | ethyl 4-(2,2,3,3-tetrafluoropropoxy)cinnamate | FC(COC1=CC=C(C=CC(=O)OCC)C=C1)(C(F)F)F | C14H14F4O3
